US07790377B2
Chemicals were purchased from Sigma-Aldrich Chemical Company (St. Louis, Mo.) unless noted. Plant oils were manufactured by Aura Cacia (Weaverville, Calif.). Juvocimene was synthesized as described (Mestres, R. and E. Munoz, 1996, Synthetic Comm., 26:1309-1319). Myristicin, apiole, bergamotin, tangeretin, bisabolol, and cucurbitacin were obtained from Indofine Chemical Company (Somerville, N.J.). Methyleugenol was provided by the Batelle Chemical Company (Columbus, Ohio). Man-made insecticides were purchased from Chem Service (West Chester, Pa.). The precocene-like suicide substrate 3,4-dimethoxyisopentenylphenol was prepared as described Bowers, W. S., et al., 1976, Science, 217:647-648) except that a 3,4-dimethoxylated reactant was used.

reactant | Myristicin | COC=1C=C(C=C2C1OCO2)CC=C | C11H12O3
reactant | apiole | COC1=C2C(=C(C(=C1)CC=C)OC)OCO2 | C12H14O4
reactant | bergamotin | CC(=CCC/C(=C/COC1=C2C=CC(=O)OC2=CC3=C1C=CO3)/C)C | C21H22O4
reactant | tangeretin | COC=1C=CC(=CC1)C2=CC(=O)C3=C(C(=C(C(=C3OC)OC)OC)OC)O2 | C20H20O7
reactant | bisabolol | CC1=CCC(CC1)[C@](C)(CCC=C(C)C)O | C15H26O
product | Methyleugenol | COC=1C=CC(=CC1OC)CC=C | C11H14O2
